US06521643B1
To a suspension of 2-bromo-4-methoxypyridine (1.21 g), 4-chlorophenylboronic acid (1.21 g) and tetrakis(triphenylphosphine)-palladium (372 mg) in 1,2-dimethoxyethane (20 ml) was added 2M aqueous solution of sodium carbonate (7.74 ml). The mixture was stirred at 80° C. for 12 hours under a nitrogen atmosphere, then cooled to room temperature and diluted with ethyl acetate. The organic layer was separated, washed with water and brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. 2-Propanol was added to the residue. The precipitate was collected by filtration and dried under reduced pressure to give 4-(4-methoxypyridin-2-yl)-chlorobenzene (1.03 g).

reactant | 2-bromo-4-methoxypyridine | 1.21 g | BrC1=NC=CC(=C1)OC | C6H6BrNO
reactant | 4-chlorophenylboronic acid | 1.21 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 7.74 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium | 372 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(4-methoxypyridin-2-yl)-chlorobenzene | 1.03 g | COC1=CC(=NC=C1)C1=CC=C(C=C1)Cl | C12H10ClNO
